*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:16:05 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "DFFHQX1"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  DFFHQX1 D Q CK
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET D 2.58044e-16
*|P (D X 0 2.7000 0.8550)
*|I (Mmn25:g Mmn25 g X 0 2.5825 0.3925)
*|I (Mmp25:g Mmp25 g X 0 2.5825 1.1200)
*|S (D:2 2.6300 0.7650)
*|S (D:4 2.6300 0.7650)
*|S (D:5 2.6650 0.7650)
*|S (D:6 2.6650 0.8550)
C1 Mmp25:g VSS 4.69792e-17
C2 Mmn25:g VSS 6.96084e-17
C3 D:5 VSS 4.85543e-17
C4 D:2 VSS 5.53384e-17
C5 D VSS 3.75634e-17
Rl1 D:2 Mmn25:g 89.617439 $W=0.039
Rl2 Mmp25:g D:2 62.694366 $W=0.039
Rk3 D:2 D:4 45.000000 $W=0.23
Rk4 D:4 D:5 0.012327 $W=0.18
Rk5 D:6 D 0.012503 $W=0.18
Rk6 D:5 D:6 0.024929 $W=0.23
*
*|NET Q 1.16032e-16
*|P (Q X 0 0.1000 0.6650)
*|I (Mmn55:d Mmn55 d X 0 0.1100 0.5100)
*|I (Mmp55:d Mmp55 d X 0 0.1100 1.1800)
C6 Mmp55:d VSS 5.65157e-17
C7 Mmn55:d VSS 5.95164e-17
Rk7 Q Mmn55:d 75.090996 $W=0.06
Rk8 Mmp55:d Q 21.057970 $W=0.09
*
*|NET CK 2.68523e-16
*|P (CK X 0 0.3000 1.0450)
*|I (Mmn20:g Mmn20 g X 0 0.4725 0.5675)
*|I (Mmp20:g Mmp20 g X 0 0.4175 1.2675)
*|S (CK:2 0.4450 0.9500)
C8 Mmp20:g VSS 4.28144e-17
C9 Mmn20:g VSS 4.66786e-17
C10 CK:2 VSS 1.34104e-16
C11 CK VSS 4.49256e-17
Rl9 Mmn20:g CK:2 107.692307 $W=0.039
Rl10 CK:2 Mmp20:g 68.406593 $W=0.039
Rk11 CK:2 CK 45.100986 $W=0.08
*
*|NET qbint 7.58948e-16
*|I (Mmn55:g Mmn55 g X 0 0.2025 0.5100)
*|I (Mmn45:d Mmn45 d X 0 0.7850 0.3925)
*|I (Mmn50:g Mmn50 g X 0 1.0875 0.3925)
*|I (Mmp55:g Mmp55 g X 0 0.2025 1.1800)
*|I (Mmp45:d Mmp45 d X 0 0.7500 1.1200)
*|I (Mmp50:g Mmp50 g X 0 1.0875 1.1200)
*|S (qbint:1 0.2600 0.7400)
*|S (qbint:2 0.2025 0.7400)
*|S (qbint:6 1.0875 0.8050)
*|S (qbint:7 1.0200 0.8050)
*|S (qbint:9 0.7450 0.5400)
*|S (qbint:11 0.7750 0.4200)
C12 Mmp50:g VSS 6.02314e-17
C13 Mmp45:d VSS 9.48835e-17
C14 Mmp55:g VSS 5.71462e-17
C15 Mmn50:g VSS 5.45049e-17
C16 Mmn45:d VSS 7.47339e-17
C17 Mmn55:g VSS 2.99026e-17
C18 qbint:9 VSS 1.05568e-16
C19 qbint:6 VSS 3.3125e-17
C20 qbint:2 VSS 1.68306e-17
C21 qbint:1 VSS 1.34426e-16
C22 qbint:7 VSS 9.75964e-17
Rl12 qbint:1 qbint:2 46.271347 $W=0.094
Rl13 qbint:6 qbint:7 47.766560 $W=0.094
Rl14 qbint:2 Mmn55:g 34.329510 $W=0.039
Rl15 qbint:6 Mmn50:g 115.098740 $W=0.039
Rl16 qbint:2 Mmp55:g 90.098740 $W=0.039
Rl17 Mmp50:g qbint:6 57.406429 $W=0.039
Rk18 qbint:7 qbint:9 0.400998 $W=0.07
Rk19 qbint:11 qbint:1 0.608536 $W=0.08
Rk20 qbint:9 qbint:11 0.062906 $W=0.125
Rk21 Mmn45:d qbint:11 75.000000 $W=0.0775
Rk22 qbint:9 Mmp45:d 62.417034 $W=0.0775
*
*|NET CKb 1.27523e-15
*|I (Mmn20:d Mmn20 d X 0 0.5650 0.5675)
*|I (Mmn51:g Mmn51 g X 0 1.2325 0.3925)
*|I (Mmn26:g Mmn26 g X 0 2.4775 0.3925)
*|I (Mmn21:g Mmn21 g X 0 2.8475 0.4225)
*|I (Mmp20:d Mmp20 d X 0 0.5600 1.3150)
*|I (Mmp40:g Mmp40 g X 0 1.5025 1.1200)
*|I (Mmp36:g Mmp36 g X 0 2.1425 1.1200)
*|I (Mmp21:g Mmp21 g X 0 2.8275 1.0725)
*|S (CKb:2 1.5300 0.8450)
*|S (CKb:5 2.1800 1.3750)
*|S (CKb:7 2.4400 0.6550)
*|S (CKb:9 2.8000 0.6050)
*|S (CKb:11 2.1500 1.2150)
*|S (CKb:12 1.5300 1.2150)
*|S (CKb:13 0.5750 1.2150)
C23 Mmp21:g VSS 4.49676e-17
C24 Mmp36:g VSS 7.03671e-17
C25 Mmp40:g VSS 2.98286e-17
C26 Mmp20:d VSS 3.25051e-17
C27 Mmn21:g VSS 2.99997e-17
C28 Mmn26:g VSS 5.44708e-17
C29 Mmn51:g VSS 7.25522e-17
C30 Mmn20:d VSS 1.14745e-16
C31 CKb:13 VSS 1.48273e-16
C32 CKb:12 VSS 1.11709e-16
C33 CKb:11 VSS 9.76019e-17
C34 CKb:2 VSS 1.35405e-16
C35 CKb:5 VSS 5.89204e-17
C36 CKb:7 VSS 1.63268e-16
C37 CKb:9 VSS 1.10614e-16
Rl23 CKb:2 Mmn51:g 193.773590 $W=0.039
Rl24 Mmn26:g CKb:7 92.309753 $W=0.039
Rl25 Mmn21:g CKb:9 30.051062 $W=0.039
Rl26 Mmp40:g CKb:2 28.641214 $W=0.039
Rl27 Mmp36:g CKb:5 69.232826 $W=0.039
Rl28 CKb:9 Mmp21:g 120.948906 $W=0.039
Rk29 CKb:9 CKb:7 45.292072 $W=0.08
Rk30 CKb:7 CKb:11 0.643509 $W=0.07
Rk31 CKb:11 CKb:5 0.088965 $W=0.09
Rk32 CKb:12 CKb:2 45.268898 $W=0.0775
Rk33 CKb:11 CKb:12 0.453546 $W=0.09
Rk34 CKb:12 CKb:13 0.703468 $W=0.075
Rk35 CKb:13 Mmn20:d 75.476723 $W=0.09
Rk36 CKb:13 Mmp20:d 62.069599 $W=0.1
*
*|NET n30 4.77982e-16
*|I (Mmn45:g Mmn45 g X 0 0.8775 0.3925)
*|I (Mmn51:d Mmn51 d X 0 1.3975 0.3925)
*|I (Mmp45:g Mmp45 g X 0 0.8225 1.1200)
*|I (Mmp51:d Mmp51 d X 0 1.3675 1.1200)
*|S (n30:2 0.8500 0.7300)
*|S (n30:5 1.1400 0.9950)
C38 Mmp51:d VSS 5.03701e-17
C39 Mmp45:g VSS 4.83577e-17
C40 Mmn51:d VSS 9.05639e-17
C41 Mmn45:g VSS 3.79066e-17
C42 n30:5 VSS 1.1853e-16
C43 n30:2 VSS 1.32254e-16
Rl37 Mmn45:g n30:2 78.846153 $W=0.039
Rl38 n30:2 Mmp45:g 78.021980 $W=0.039
Rk39 n30:5 n30:2 45.442093 $W=0.0775
Rk40 Mmn51:d n30:5 75.538910 $W=0.08
Rk41 n30:5 Mmp51:d 62.164444 $W=0.08
*
*|NET net172 3.17549e-18
*|I (Mmn50:d Mmn50 d X 0 1.1600 0.3925)
*|I (Mmn51:s Mmn51 s X 0 1.1600 0.3925)
C44 Mmn50:d VSS 3.17549e-18
Rmw42 Mmn51:s Mmn50:d 0.001000 $W=1
*
*|NET mout 4.47779e-16
*|I (Mmn40:d Mmn40 d X 0 1.6650 0.3925)
*|I (Mmn35:g Mmn35 g X 0 2.0375 0.3925)
*|I (Mmp40:d Mmp40 d X 0 1.6350 1.1200)
*|I (Mmp35:g Mmp35 g X 0 2.0375 1.1200)
*|S (mout:2 2.0100 0.6050)
*|S (mout:5 1.6650 0.5750)
C45 Mmp35:g VSS 9.78313e-17
C46 Mmp40:d VSS 8.14613e-17
C47 Mmn35:g VSS 3.74188e-17
C48 Mmn40:d VSS 4.6961e-17
C49 mout:5 VSS 7.35263e-17
C50 mout:2 VSS 1.1058e-16
Rl43 mout:2 Mmn35:g 29.537926 $W=0.039
Rl44 Mmp35:g mout:2 125.691765 $W=0.039
Rk45 mout:5 mout:2 45.234627 $W=0.08
Rk46 mout:5 Mmn40:d 75.123230 $W=0.065
Rk47 Mmp40:d mout:5 62.333900 $W=0.085
*
*|NET CKbb 9.28406e-16
*|I (Mmn40:g Mmn40 g X 0 1.5625 0.3925)
*|I (Mmn36:g Mmn36 g X 0 2.2175 0.3925)
*|I (Mmn21:d Mmn21 d X 0 2.9400 0.4225)
*|I (Mmp51:g Mmp51 g X 0 1.2325 1.1200)
*|I (Mmp26:g Mmp26 g X 0 2.3475 1.1200)
*|I (Mmp21:d Mmp21 d X 0 2.9300 1.0725)
*|S (CKbb:2 1.2600 0.8050)
*|S (CKbb:4 1.5350 0.6350)
*|S (CKbb:6 2.1800 0.5950)
*|S (CKbb:10 2.9500 0.4150)
*|S (CKbb:11 2.1800 0.4250)
C51 Mmp21:d VSS 4.37419e-17
C52 Mmp26:g VSS 6.74269e-17
C53 Mmp51:g VSS 5.08845e-17
C54 Mmn21:d VSS 1.23047e-16
C55 Mmn36:g VSS 2.89888e-17
C56 Mmn40:g VSS 2.72949e-17
C57 CKbb:11 VSS 1.97656e-16
C58 CKbb:2 VSS 1.1294e-16
C59 CKbb:4 VSS 1.70565e-16
C60 CKbb:6 VSS 1.05861e-16
Rl48 Mmn40:g CKbb:4 84.951187 $W=0.039
Rl49 CKbb:6 Mmn36:g 26.437243 $W=0.039
Rl50 Mmp51:g CKbb:2 93.768700 $W=0.039
Rl51 Mmp26:g CKbb:6 156.300537 $W=0.039
Rk52 CKbb:4 CKbb:2 0.303055 $W=0.08
Rk53 CKbb:11 CKbb:6 45.140648 $W=0.08
Rk54 CKbb:11 CKbb:4 0.858936 $W=0.08
Rk55 CKbb:10 CKbb:11 0.789801 $W=0.0785
Rk56 Mmn21:d CKbb:10 75.000000 $W=0.08
Rk57 Mmp21:d CKbb:10 62.443352 $W=0.08
*
*|NET n20 3.90011e-16
*|I (Mmn30:g Mmn30 g X 0 1.7675 0.3925)
*|I (Mmn36:d Mmn36 d X 0 2.3475 0.3925)
*|I (Mmp30:g Mmp30 g X 0 1.7675 1.1200)
*|I (Mmp36:d Mmp36 d X 0 2.2450 1.1200)
*|S (n20:2 1.8100 0.7950)
*|S (n20:5 2.2450 0.8250)
C61 Mmp36:d VSS 3.55527e-17
C62 Mmp30:g VSS 4.51875e-17
C63 Mmn36:d VSS 7.83189e-17
C64 Mmn30:g VSS 5.0679e-17
C65 n20:5 VSS 8.34618e-17
C66 n20:2 VSS 9.68108e-17
Rl58 n20:2 Mmn30:g 99.174934 $W=0.039
Rl59 Mmp30:g n20:2 49.174934 $W=0.039
Rk60 n20:5 n20:2 45.308235 $W=0.09
Rk61 Mmn36:d n20:5 75.382759 $W=0.07
Rk62 n20:5 Mmp36:d 62.132011 $W=0.09
*
*|NET net192 2.98175e-18
*|I (Mmn35:d Mmn35 d X 0 2.1275 0.3925)
*|I (Mmn36:s Mmn36 s X 0 2.1275 0.3925)
C67 Mmn35:d VSS 2.98175e-18
Rmw63 Mmn36:s Mmn35:d 0.001000 $W=1
*
*|NET n21 2.12137e-18
*|I (Mmn26:s Mmn26 s X 0 2.5300 0.3925)
*|I (Mmn25:d Mmn25 d X 0 2.5300 0.3925)
C68 Mmn26:s VSS 2.12137e-18
Rmw64 Mmn25:d Mmn26:s 0.001000 $W=1
*
*|NET net123 5.0544e-18
*|I (Mmp50:d Mmp50 d X 0 1.1600 1.1200)
*|I (Mmp51:s Mmp51 s X 0 1.1600 1.1200)
C69 Mmp50:d VSS 5.0544e-18
Rmw65 Mmp51:s Mmp50:d 0.001000 $W=1
*
*|NET net147 1.69422e-18
*|I (Mmp35:d Mmp35 d X 0 2.0900 1.1200)
*|I (Mmp36:s Mmp36 s X 0 2.0900 1.1200)
C70 Mmp35:d VSS 1.69422e-18
Rmw66 Mmp36:s Mmp35:d 0.001000 $W=1
*
*|NET n22 5.79395e-18
*|I (Mmp26:s Mmp26 s X 0 2.4650 1.1200)
*|I (Mmp25:d Mmp25 d X 0 2.4650 1.1200)
C71 Mmp26:s VSS 5.79395e-18
Rmw67 Mmp25:d Mmp26:s 0.001000 $W=1
*
*Instance Section
*
Mmn55	Mmn55:d	Mmn55:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0364P	AS=0.04873P	PD=0.8U	PS=0.97U
+ fw=2.6e-07 sa=1.4e-07 sb=2.90577e-07 sca=15.3338 scb=0.0153436 scc=0.00119435
Mmn20	Mmn20:d	Mmn20:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.04873P	PD=0.57U	PS=0.97U
+ fw=1.45e-07 sa=4.1e-07 sb=1.4e-07 sca=19.8813 scb=0.0206549 scc=0.00197265
Mmn45	Mmn45:d	Mmn45:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0287P	AS=0.03383P	PD=0.69U	PS=0.74U
+ fw=2.05e-07 sa=1.4e-07 sb=1.96341e-06 sca=8.54927 scb=0.00659983 scc=0.000133988
Mmn50	Mmn50:d	Mmn50:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0205P	AS=0.03383P	PD=0.61U	PS=0.74U
+ fw=2.05e-07 sa=3.5e-07 sb=1.83122e-06 sca=8.54927 scb=0.00659983 scc=0.000133988
Mmn51	Mmn51:d	Mmn51:g	Mmn51:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.05843P	AS=0.0205P	PD=0.98U	PS=0.61U
+ fw=2.05e-07 sa=4.95e-07 sb=1.68622e-06 sca=8.54927 scb=0.00659983 scc=0.000133988
Mmn40	Mmn40:d	Mmn40:g	Mmn51:d	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0328P	AS=0.05843P	PD=0.73U	PS=0.98U
+ fw=2.05e-07 sa=8.25e-07 sb=1.35622e-06 sca=8.54927 scb=0.00659983 scc=0.000133988
Mmn30	Mmn40:d	Mmn30:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0328P	AS=0.07238P	PD=0.73U	PS=1.28U
+ fw=2.05e-07 sa=1.03e-06 sb=1.15122e-06 sca=8.54927 scb=0.00659983 scc=0.000133988
Mmn35	Mmn35:d	Mmn35:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.02768P	AS=0.07238P	PD=0.68U	PS=1.28U
+ fw=2.05e-07 sa=1.3e-06 sb=8.8122e-07 sca=8.54927 scb=0.00659983 scc=0.000133988
Mmn36	Mmn36:d	Mmn36:g	Mmn36:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.04408P	AS=0.02768P	PD=0.84U	PS=0.68U
+ fw=2.05e-07 sa=1.48e-06 sb=7.0122e-07 sca=8.54927 scb=0.00659983 scc=0.000133988
Mmn26	Mmn36:d	Mmn26:g	Mmn26:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.04408P	AS=0.0123P	PD=0.84U	PS=0.53U
+ fw=2.05e-07 sa=1.74e-06 sb=4.4122e-07 sca=8.54927 scb=0.00659983 scc=0.000133988
Mmn25	Mmn25:d	Mmn25:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0123P	AS=0.0673P	PD=0.53U	PS=1.27U
+ fw=2.05e-07 sa=1.845e-06 sb=3.3622e-07 sca=8.54927 scb=0.00659983 scc=0.000133988
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0673P	PD=0.57U	PS=1.27U
+ fw=1.45e-07 sa=2e-06 sb=1.4e-07 sca=9.33388 scb=0.00788941 scc=0.00017958
Mmp55	Mmp55:d	Mmp55:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0546P	AS=0.05405P	PD=1.06U	PS=1.12U
+ fw=3.9e-07 sa=1.4e-07 sb=2.30833e-07 sca=29.0978 scb=0.0329394 scc=0.00242907
Mmp20	Mmp20:d	Mmp20:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0263P	AS=0.05405P	PD=0.71U	PS=1.12U
+ fw=2.15e-07 sa=3.55e-07 sb=1.22326e-07 sca=13.9323 scb=0.0120188 scc=0.000146665
Mmp45	Mmp45:d	Mmp45:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0364P	AS=0.0838P	PD=0.91U	PS=1.32U
+ fw=3.1e-07 sa=1.17419e-07 sb=1.96935e-06 sca=19.4821 scb=0.0175815 scc=0.00172296
Mmp50	Mmp50:d	Mmp50:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.031P	AS=0.0838P	PD=0.82U	PS=1.32U
+ fw=3.1e-07 sa=3.82419e-07 sb=1.81879e-06 sca=19.1541 scb=0.0174883 scc=0.00172295
Mmp51	Mmp51:d	Mmp51:g	Mmp51:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.06975P	AS=0.031P	PD=1.07U	PS=0.82U
+ fw=3.1e-07 sa=5.27419e-07 sb=1.67379e-06 sca=19.1541 scb=0.0174883 scc=0.00172295
Mmp40	Mmp40:d	Mmp40:g	Mmp51:d	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0682P	AS=0.06975P	PD=1.06U	PS=1.07U
+ fw=3.1e-07 sa=7.97419e-07 sb=1.40379e-06 sca=19.1541 scb=0.0174883 scc=0.00172295
Mmp30	Mmp40:d	Mmp30:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0682P	AS=0.11412P	PD=1.06U	PS=1.78U
+ fw=3.1e-07 sa=1.06242e-06 sb=1.13879e-06 sca=19.1541 scb=0.0174883 scc=0.00172295
Mmp35	Mmp35:d	Mmp35:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0186P	AS=0.11412P	PD=0.74U	PS=1.78U
+ fw=3.1e-07 sa=1.33242e-06 sb=8.6879e-07 sca=19.1541 scb=0.0174883 scc=0.00172295
Mmp36	Mmp36:d	Mmp36:g	Mmp36:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0496P	AS=0.0186P	PD=0.94U	PS=0.74U
+ fw=3.1e-07 sa=1.43742e-06 sb=7.6379e-07 sca=19.1541 scb=0.0174883 scc=0.00172295
Mmp26	Mmp36:d	Mmp26:g	Mmp26:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0496P	AS=0.0589P	PD=0.94U	PS=1U
+ fw=3.1e-07 sa=1.64242e-06 sb=5.5879e-07 sca=19.3989 scb=0.017551 scc=0.00172296
Mmp25	Mmp25:d	Mmp25:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0589P	AS=0.0563P	PD=1U	PS=1.02U
+ fw=3.1e-07 sa=1.87742e-06 sb=3.2379e-07 sca=20.3782 scb=0.0182292 scc=0.00172385
Mmp21	Mmp21:d	Mmp21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.0563P	PD=0.75U	PS=1.02U
+ fw=2.15e-07 sa=2e-06 sb=1.6e-07 sca=27.2531 scb=0.0271167 scc=0.00250214
.ENDS
.END
